US08912200B2
Step 2: (4-Ethynylphenyl)(4-methylpiperazin-1-yl)methanone
(4-Methylpiperazin-1-yl){4-[(trimethylsilyl)ethynyl]phenyl}methanone (1.29 g, 4.26 mmol) in MeOH (20 mL) was treated with solid K2CO3 (0.118 g, 0.85 mmol). After stirring at room temperature for 3 h the volatiles were removed by evaporation, the residue was taken up with DCM (40 mL), washed with water (30 mL), brine, dried over sodium sulfate and evaporated. The crude was purified by flash chromatography on silica gel (DCM/MeOH 95/5) to afford the title compound as white solid (0.690 g, 71%).

reactant | (4-Methylpiperazin-1-yl){4-[(trimethylsilyl)ethynyl]phenyl}methanone | 4.26 mmol, 1.29 g | CN1CCN(CC1)C(=O)C1=CC=C(C=C1)C#C[Si](C)(C)C | C17H24N2OSi
reactant | K2CO3 | 0.85 mmol, 0.118 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 20 mL | CO | CH4O
product | (4-Ethynylphenyl)(4-methylpiperazin-1-yl)methanone | 0.690 g, 71% | C(#C)C1=CC=C(C=C1)C(=O)N1CCN(CC1)C | C14H16N2O
